US08497278B2
6-Chloro-2-(4-chlorophenyl)-3-((2,5-dimethyl-2H-1,2,3-triazol-4-yl)methyl)imidazo[1,2-a]pyridine (229)
To a suspension of the 6-chloro-2-(4-chlorophenyl)-3-((5-methyl-2H-1,2,3-triazol-4-yl)methyl)imidazo[1,2-a]pyridine (0.6-1.7 mmol, 1.0 eq) in DMF or THF (5-20 mL) was added potassium carbonate (3-5 eq) and either methyliodide or ethyliodide (3-5 eq) and the reaction mixture was heated at 75-85° C. for 18 h. After this time the reaction mixture was cooled and diluted with water (20-50 mL) and ethyl acetate (20-50 mL) and the layers were separated. The aqueous layer was extracted with ethyl acetate (10-30 mL) and the combined organic layers were dried over Na2SO4, concentrated and the residue was purified by chromatography (silica gel, heptane/ethyl acetate gradient) or reverse phase preparatory HPLC (acetonitrile/water gradient) to obtain the desired product. (0.14 g, 26% yield). M/e+ 372.1 for C18H15Cl2N5 (M+H)+; 1H-NMR (500 MHz, CDCl3, δ) 8.09 (d, J=2.0 Hz, 1H), 7.69-7.67 (m, 2H), 7.58 (d, J=9.5 Hz, 1H), 7.45-7.44 (m, 2H), 7.17 (dd, J=9.5, 2.0 Hz, 1H), 4.33 (s, 2H), 4.05 (s, 3H), 2.01 (s, 3H).

reactant | 6-chloro-2-(4-chlorophenyl)-3-((5-methyl-2H-1,2,3-triazol-4-yl)methyl)imidazo[1,2-a]pyridine | 0.6-1.7 mmol, 1.0 eq | ClC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)Cl)CC2=NNN=C2C | C17H13Cl2N5
reactant | potassium carbonate | 3-5 eq | C([O-])([O-])=O.[K+].[K+]
reactant | methyliodide | CI | CH3I
reactant | ethyliodide | 3-5 eq | C(C)I | C2H5I
solvent | DMF | CN(C)C=O | C3H7NO
solvent | THF | 5-20 mL | C1CCOC1 | C4H8O
solvent | water | 20-50 mL | O | H2O
solvent | ethyl acetate | 20-50 mL | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-2-(4-chlorophenyl)-3-((2,5-dimethyl-2H-1,2,3-triazol-4-yl)methyl)imidazo[1,2-a]pyridine | 26% yield | ClC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)Cl)CC2=NN(N=C2C)C | C18H15Cl2N5
